Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Penicillins / Motrin
 
Attending: ___.
 
Chief Complaint:
Syncope, rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ female
with hyperthyroidism, nature unknown, recent hospitalization for
COPD exacerbation presented to ___ for near syncope on
once occasion, syncope on another, brief unspecified
supraventricular tachycardia there, otherwise unrevealing 
initial
evaluation, ultimately transferred for a dermatology evaluation
in the context of new purpuric rash. She first noted onset of
pruritic erythematous rash, which started as "dots," overlying
her bilateral lower legs and ankles about three weeks ago. She
eventually sought care on ___, at which time she was
treated with levofloxacin for presumed cellulitis, then returned
on ___ with persistence of said rash, so was started on
a prednisone taper with topical corticosteroids for a possible
allergic reaction instead. The rash has yet to improve to date.
In fact, its distribution has widened, expanding superiorly to
involve her thighs. The color has likewise evolved, noting a
violaceous quality to it and some "black spots" now over her
bilateral shins. It is pruritic, but not painful, until today,
which she attributes to concurrent swelling of her shins and
feet, which parallels the onset of her rash. She was recently
hospitalized for a COPD exacerbation in the setting of RSV, but
was not discharged on new medications with the exception of a
prednisone taper. She did receive an unspecified duration of
doxycycline prior to this. Of note, she was as hypertensive as
200, but typically runs in the 150-range (70-range diastolic), 
so
did not start on an antihypertensive. She is allergic to aspirin
and ibuprofen, which cause respiratory distress, but has not
taken these. She is allergic to penicillin too, which causes
gastrointestinal distress, but has likewise not received this.
She last traveled to ___ in ___ for an outdoor
wedding at a campground, but slept in a hotel. She does not
recall any tick exposures. She has no pets and does not engage 
in
many outdoor activities. She does not have a personal history of
coagulopathy or vasculopathy. 

She, moreover, reports an episode of presyncope today followed 
by
syncope hours later. On the first occasion, she was ambulating
when she noted "dizziness," meaning "lightheadedness" and
"weakness all over," "like she might faint," so grabbed a hold 
of
the door, stabilizing herself. She saw "sparkling white lights,"
but these abated shortly thereafter. She never lost 
consciousness
or fell. She "didn't quite feel like herself," but proceeded 
with
her planned activities. She was next outside of a grocery store,
seated on a bench when she suddenly, without warning, "blacked
out." She adds, "It was like [she] just fell asleep." She came 
to
an estimated seconds later slumped to her side. She never fell
from the bench or sustained an injury. This episode was not
preceded by photopsia or lightheadedness. She took some deep
breaths and drove home some minutes later. She thinks she
detected a fast heartrate some time after the episode, so
measured it with an automated blood pressure cuff at home, 
noting
a pulse of 97 and systolic 190. She has not had a spell since 
and
feels "fine" this evening. She denies headache, scotomata, 
vision
loss, dysarthria, dysphagia, focal weakness or anesthesia, chest
pain, or shortness of breath preceding or following either 
event.
She did not appreciate urinary incontinence or oral trauma. She
had coffee and orange juice along with a piece of toast for
breakfast, all of which is typical for her. 

She was hypertensive to 205/107 and tachycardic to 137 on 
arrival
to ___, both of which spontaneously lessened. A brief
5-second run of unspecified supraventricular tachycardia,
possibly irregular, was noted on telemetry, per ___
emergency department provider. She was asymptomatic at the time.
An ECG reportedly demonstrated sinus tachycardia only, but this
is not available for review. CBC was notable for a mild
leukocytosis to 12.5 with an unremarkable differential. CMP was
within normal limits. Troponin was undetectable. Lactate was
within normal limits. ESR was 2. Urinalysis was bland. Blood
cultures are pending. She was ultimately transferred for
dermatology evaluation. Here, she is afebrile and again
hypertensive to 170-range. Her heart rate is in the 80-range. 
Her
oxygenation is normal. CBC again demonstrated mild leukocytosis
to 11 with lymphocyte predominance, mild normocytic anemia to
11.1, and normal platelets. BMP is again within normal limits.
Coags are within normal limits. CXR is not explanatory. ECG
demonstrates normal sinus rhythm with atrial ectopy.

REVIEW OF SYSTEMS: Constitutionally, she otherwise feels well.
She has not documented a fever at home and denies rigors, night
sweats, anorexia, or weight loss since her diagnosis of
hyperthyroidism last year. She cannot recall her methimazole
dose, but knows it has been tapered. She denies vertiginous
sensation or other illusory movement. She has no jaw pain or
claudication. Absence of cardiopulmonary symptoms, as above. She
denies orthopnea too. She has no gastrointestinal distress of
lower urinary tract symptoms. She has not detected hematuria or
other change to the character of her urine. 

 
Past Medical History:
-Hyperthyroidism.
-Asthma/chronic obstructive pulmonary disease.
-Hypertension.
-Osteoarthritis.
-Hysterectomy.  
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
VITALS: T 97.6, HR 94, BP 171/70, 95% RA
GENERAL: Elderly female in no apparent distress. 
HEENT: Anicteric sclerae. Oropharynx clear.
NECK: No cervical lymphadenopathy. JVP undetectable at sixty
degree angle. No obvious thyromegaly or nodule.
CV: Regular rate and rhythm. Rare ectopy. S1/physiologic split
S2. No murmur or gallop appreciated.
PULM: Unlabored. Lungs clear bilaterally.  
ABDOMEN: Soft, non-tender, non-distended. No hepatsplenomegaly. 
SKIN: Confluent nonblanching erythematous to violaceous patches
with hemorrhagic bullae over bilateral shins. Scattered 
petechiae
and purpura extending to thighs. Erythema over hands too.
Scattered probable actinic keratoses over her back. 
EXT: Rash as above. Bilateral pedal edema. Pulses palpable and
symmetric.  
NEURO: Awake, alert, attentive, oriented. She is conversant and
appropriate. CN II-XII intact. Strength and sensation intact and
full throughout. She has no pronator drift. Coordination is
intact. No nystagmus. Gait over limited distance is within 
normal
limits.   

DISCHARGE PHYSICAL EXAM
PHYSICAL EXAM  
VITALS: 24 HR Data (last updated ___ @ 2357)
    Temp: 98.0 (Tm 98.1), BP: 131/68 (119-166/64-71), HR: 79
(78-94), RR: 18, O2 sat: 95% (93-96), O2 delivery: RA  
GENERAL: NAD.
CV: RRR, nml s1 s2, no mrg. 
PULM: RA. CTAB.
ABDOMEN: Soft, nd, nt. 
SKIN: Confluent nonblanching erythematous to violaceous patches
with hemorrhagic bullae over bilateral shins. Scattered 
petechiae
and purpura extending to thighs. Erythema over hands too.
Scattered probable actinic keratoses over her back. 
EXT: Rash as above. Bilateral pedal edema. Pulses palpable and
symmetric. (Image in OMR).   
NEURO: AOx4. No focal neurologic deficits.
 
Pertinent Results:
ADMISSION LABS
___ 06:54PM BLOOD WBC-11.0* RBC-4.02 Hgb-11.1* Hct-34.3 
MCV-85 MCH-27.6 MCHC-32.4 RDW-15.3 RDWSD-47.9* Plt ___
___ 06:54PM BLOOD Neuts-42.8 ___ Monos-8.4 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-4.71 AbsLymp-5.23* AbsMono-0.93* 
AbsEos-0.07 AbsBaso-0.04
___ 06:54PM BLOOD Glucose-102* UreaN-11 Creat-0.8 Na-144 
K-3.8 Cl-106 HCO3-25 AnGap-13
___ 07:20AM BLOOD ALT-13 AST-17 AlkPhos-67 TotBili-0.3
___ 06:54PM BLOOD cTropnT-<0.01 proBNP-1310*
___ 06:54PM BLOOD Calcium-9.1 Phos-3.3 Mg-2.0

DISCHARGE LABS
___ 07:20AM BLOOD WBC-6.3 RBC-3.76* Hgb-10.4* Hct-32.4* 
MCV-86 MCH-27.7 MCHC-32.1 RDW-15.3 RDWSD-48.0* Plt ___
___ 07:20AM BLOOD Glucose-90 UreaN-12 Creat-0.7 Na-143 
K-4.2 Cl-104 HCO3-26 AnGap-13
___ 07:20AM BLOOD Albumin-3.4* Calcium-8.7 Phos-5.0* Mg-2.0 
Iron-32
___ 07:20AM BLOOD calTIBC-364 Ferritn-27 TRF-280
___ 07:20AM BLOOD TSH-2.5
___ 07:20AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 06:54PM BLOOD CRP-1.0
___ 07:20AM BLOOD HCV Ab-NEG
___ 08:38AM BLOOD CRYOGLOBULIN-PND
___ 09:46PM BLOOD SED RATE-Test     

___ 21:46 
SED RATE 
  Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          2                   < OR = 30 mm/h
___                                        
 
THIS TEST WAS PERFORMED AT:
___ ___  ___ 
___
Comment: TAKEN FROM ___
 
MICRODATA
___ NGTD

IMAGING
___ CXR: No acute intrathoracic process.
 
 
Brief Hospital Course:
Ms. ___ is a ___ female with 
hyperthyroidism,recent hospitalization for COPD exacerbation, 
who initially presented to ___ for lightheadedness, one 
episode ofsyncope, and transferred to ___ for evaluation of 
new, evolving purpuric rash. 

#Syncope:
Reportedly had one episode of lightheadedness without syncope, 
followed by a repeat episode during which she lost consciousness 
for a few seconds (all occurred on ___. She presented to ___ 
___ and was subsequently transferred to ___ on ___ for 
further evaluation of her lower extremity purpuric rash. While 
hospitalized, telemetry was notable for recurrent episodes of 
sinus tachycardia up to 120s intermittently, lasting for a few 
minutes (otherwise in 80-90s) with unremarkable EKG. Due to 
concern for possible underlying cardiac etiology as cause of her 
syncope, she was discharged with a Ziopatch in place. 
Orthostatics were negative. TSH was 2.5 (wnl).

#Purpuric rash
#Pedal edema
Appears to started ~3 weeks prior to presentation. She had 
recently been started on systemic prednisone for her rash. She 
had no signs/symptoms of CHF. She was evaluated by dermatology 
who felt that rash was c/w purpuric dermatoses for which pt was 
prescribed 2 weeks of triamcinolone cream 0.1% bid (___). 
Close dermatology follow up was arranged.

#HTN
Elevated to 170-190s at presentation. Not on any anti-HTN though 
notes prior h/o reaction with one anti-HTN (pt became 
tired/sleepy). Attempted to start lisinopril 5mg qd; however, pt 
declined and preferred to start this as an outpatient. 

========================
CHRONIC PROBLEMS: 
======================== 
#Hyperthyroidism:
TSH 2.5. Continued home methimazole 10mg qod. 

#Asthma/COPD:
Continued home Symbicort (brought from home), albuterol 2 puffs 
q6h: prn, Montelukast 10mg qd

#Arthritis:
Continued home Celebrex ___ qd (non-formulary, so pt brought 
this in from home). Cr 0.7-0.8.

CORE MEASURES:
================ 
#CODE: Full, presumed
#CONTACT: ___, daughter (___)

TRANSITIONAL ISSUES:
====================
[]Please follow up on Ziopatch (placed prior to discharge to 
monitor for arrhythmia). 
[]Consider repeat TTE to evaluate for valvular abnormality as 
cause of syncope.
[]Consider starting anti-HTN Rx as outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methimazole 10 mg PO EVERY OTHER DAY 
2. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
3. Celecoxib 200 mg oral DAILY 
4. Estrogens Conjugated 0.625 mg PO DAILY 
5. Fexofenadine 180 mg PO DAILY 
6. Fluticasone Propionate NASAL 2 SPRY NU BID 
7. Montelukast 10 mg PO DAILY 
8. Pantoprazole 40 mg PO DAILY 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath, 
wheezing 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO BID  
2.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID bilateral 
lower extremities Duration: 2 Weeks 
RX *triamcinolone acetonide 0.1 %  apply twice daily for 2 weeks 
Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath, 
wheezing  
4.  Celecoxib 200 mg oral DAILY  
5.  Estrogens Conjugated 0.625 mg PO DAILY  
6.  Fexofenadine 180 mg PO DAILY  
7.  Fluticasone Propionate NASAL 2 SPRY NU BID  
8.  Methimazole 10 mg PO EVERY OTHER DAY  
9.  Montelukast 10 mg PO DAILY  
10.  Pantoprazole 40 mg PO DAILY  
11.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___ -
 
Discharge Diagnosis:
Syncope
Purpuric Rash 
Hypertension

Secondary diagnoses:
Hyperthyroidism
Asthma
COPD
Arthritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why was admitted to the hospital?
-You were admitted for episodes of lightheadedness and for 
losing consciousness. 
-You came to ___ for further evaluation of 
your leg rash.

What happened while I was in the hospital?
–While you were in the hospital, we tried to figure out what 
caused you to faint/lose consciousness. We could not find any 
cause for this while you were here. We had our physical 
therapist see you and also gave your a heart monitor to wear. 
This will monitor your heart for any irregular rhythm that can 
cause you to lose consciousness.
-Our dermatologists took a look at your lower legs. They 
recommended a cream (triamcinolone cream) which you will need to 
use for a total of 2 weeks (no more than 2 weeks). You will need 
to apply this cream twice a day.
-Stop taking your home prednisone. 

What happens when I leave the hospital?
-Please continue to take all your medications as scheduled and 
keep your appointments. 
-You will need to follow up with the dermatologist for your leg 
rash. 
-You will need to follow up with Dr. ___. 

Very Sincerely,
Your ___ Team 

 
Followup Instructions:
___